US09353066B2
A mixture of methyl 2-hydroxy-5-iodobenzoate (11.6 g, 41.5 mmol) in 2-methyl-THF (180 mL) and water (82.5 mL) was purged with N2 for 30 minutes. Sodium carbonate (12.6 g, 119 mmol), N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (15.0 g, 39.6 mmol) and [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.61 g, 1.98 mmol) were added to the reaction mixture at rt under N2 and then the mixture was heated to 80° C. for 14 hours. The reaction mixture was poured into a 1:1 solution of ethyl acetate/2N HCl (800 mL) and the layers were separated. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) to afford methyl 4-hydroxy-3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylate. MS ESI calcd. for C20H12F3N3O3 [M+H]+ 404, found 404.

reactant | methyl 2-hydroxy-5-iodobenzoate | 41.5 mmol, 11.6 g | OC1=C(C(=O)OC)C=C(C=C1)I | C8H7IO3
reactant | Sodium carbonate | 119 mmol, 12.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 39.6 mmol, 15.0 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | ethyl acetate | 2N, 800 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 82.5 mL | O | H2O
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.98 mmol, 1.61 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | methyl 4-hydroxy-3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylate | OC1=C(C=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C(=O)OC | C20H16F3N3O3
